US07674822B2
Step H Deprotection: A solution of 7-tert-Butoxycarbonylamino-1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester (170 mg, 0.37 mmol) in DCM (6 mL) was cooled to 0° C. Trifluoroacetic acid (1.2 mL) was then added, and the solution was allowed to warm to ambient temperature, stirring a total of four hours, after which the reaction was judged complete by TLC. The reaction mixture was concentrated in vacuo, dissolved in ethyl acetate, and washed with sodium bicarbonate (3×10 mL). The organic layer was then concentrated in vacuo, affording 7-Amino-1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester in a quantitative yield.

reactant | 7-tert-Butoxycarbonylamino-1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester | 0.37 mmol, 170 mg | COC(=O)C1=C(C2=C(C=3C=CC=C(C3S2)NC(=O)OC(C)(C)C)S1)OCC(=O)OCC | C21H23NO7S2
reactant | Trifluoroacetic acid | 1.2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | 7-Amino-1-ethoxycarbonylmethoxy-3,8-dithia-cyclopenta[a]indene-2-carboxylic acid methyl ester | quantitative yield | COC(=O)C1=C(C2=C(C=3C=CC=C(C3S2)N)S1)OCC(=O)OCC | C16H15NO5S2
